US07534891B2
d) 6-Hydroxy-quinoline-2-carboxylic acid
6-Methoxy-quinoline-2-carboxylic acid (4 g, 0.019 mol) was suspended in hydrobromic acid 48% in water (80 ml) and the mixture was heated at 125° C. overnight. After cooling to 0° C. ammonium hydroxide was added until the pH was 6-7 followed by addition of HCl until the pH was 3-4 and the compound precipitated. The solid was filtrated, washed with water and dried under vacuum to yield 3.5 g (0.0185 mol, 97% of theory) of the title compound as a yellow solid MS (m/e)=190.1 (M+H)+.

reactant | 6-Methoxy-quinoline-2-carboxylic acid | 0.019 mol, 4 g | COC=1C=C2C=CC(=NC2=CC1)C(=O)O | C11H9NO3
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | HCl | Cl | ClH
solvent | hydrobromic acid | Br | BrH
solvent | water | 80 ml | O | H2O
product | 6-Hydroxy-quinoline-2-carboxylic acid | OC=1C=C2C=CC(=NC2=CC1)C(=O)O | C10H7NO3
